US04159387
A solution of 23.7 g (0.21 mole) of chloroacetyl chloride is added dropwise, in the course of 40 minutes, to a solution, cooled to 0°-5° C. and vigorously stirred, of 14.8 g (0.1 mole) of 1,1,2,2-tetramethoxyethylene and 23.2 g (0.23 mole) of triethylamine in 100 ml of absolute n-hexane. The greyish-brown suspension formed is stirred for 3 hours at 20° C.; the resulting salt is then filtered off with suction and washed with n-hexane, and the yellow filtrate is concentrated by evaporation. The intensive IR-absorption bands of the residue (30.4 g) confirm the formation of 2-chloro-3,3,4,4-tetramethoxy-1-chloroacetoxycyclobutene (5.71μ) and 2-chloro-3,4,4-trimethoxycyclobutenone (5.58; 6.1μ). According to the NMR spectrum, the reaction mixture contains 80±5% by weight of 2-chloro-3,3,4,4,-tetramethoxy-1-chloroacetoxybutene and 12±3% by weight of 2-chloro-3,4,4-trimethoxycyclobutenone, besides small amounts of unidentifiable by-products. By rapid separation by columnchromatography of 0.5 g of the crude residue, it is possible to obtain 0.1 g of pure 2-chloro-3,4,4-trimethoxycyclobutenone (eluant: hexane/diethyl ether in a volume ratio of 4:1).

reactant | chloroacetyl chloride | 0.21 mole, 23.7 g | ClCC(=O)Cl | C2H2Cl2O
reactant | 1,1,2,2-tetramethoxyethylene | 0.1 mole, 14.8 g | COC(=C(OC)OC)OC | C6H12O4
reactant | triethylamine | 0.23 mole, 23.2 g | C(C)N(CC)CC | C6H15N
solvent | n-hexane | 100 ml | CCCCCC | C6H14
product | 2-chloro-3,4,4-trimethoxycyclobutenone | 0.1 g | ClC=1C(C(C1OC)(OC)OC)=O | C7H9ClO4
